Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Prochlorperazine / Sulfa (Sulfonamide 
Antibiotics) / Quinolones / Pineapple / Erythromycin Base / 
Metoclopramide
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a h/o kidney stones who 
presents with several days of RUQ/flank pain and a distended 
abdomen. The pain began ___ after eating when she started 
having nausea and then vomited. Over the next few days she had 
what she describes as a "belly ache" with some associated nausea 
and one episode of emesis on ___. During the week she was 
able to tolerate po's then noted an increase in urinary 
frequency and thought she could feel a kidney stone passing, but 
when the pain didn't improve she called her PCP's office on 
___. She was seen by her PCP for evaluation of her 
abdominal pain, who was concerned about a kidney stone vs. 
gallbladder pathology so she had a noncontrast abdominal CT scan 
done. The CT scan showed a 17mm likely cyst in her liver and two 
kidney stones on the left, but since the cyst had increased in 
size and she continued to have pain she was referred to the ER 
for further evaluation.  
.  
In the ED, initial vs were: 98.6, 77, 125/80, 18, 100% on RA. 
Patient was given morphine x 2 for pain, which improved her pain 
but did not last that long, had an ultrasound of her abdomen 
that showed a left sided 5mm non-obstructing kidney stone and 
two likely liver hemangiomas. Labs showed all LFT's within 
normal limits, lipase of 44, HCT of 34.2, u/a with a small 
amount of blood, and was admitted for further work up of her 
abdominal pain.  
.  
On the floor initial VS were: 96.2, 110/80, 88, 18, 99% on RA, 
currently her pain is ___, improved to ___ with morphine. 
Describes the belly pain as diffuse and dull, flank pain is 
sharp.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation. No recent change in bowel habits. No dysuria. 
Denied arthralgias or myalgias.  

 
Past Medical History:
(per patient and atrius records)  
Kidney Stones  
Asthma  
Anemia  
Sickle cell trait  
hx hematuria  
endometriosis
Hx Abnormal Pap

 
Social History:
___
Family History:
Mother with HTN, DM, RA and interstitial cystitis  
Two maternal aunts with breast cancer  
One paternal aunt with colon cancer  

 
Physical Exam:
Vitals: T: 98 BP: 102/68 P: 77 (70-80s) R: 18 O2: 99% on RA  
General: WDWN young AA female, appearing in mild discomfort  
HEENT: NCAT, EOMI, MMM, OP clear  
Neck: supple  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly distended, TTP in epigastric region, RUQ 
and RLQ, no rebound tenderness or guarding  
Back: no spinal tenderness, +right CVA tenderness  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
Laboratory Findings
___ 08:33PM BLOOD WBC-5.4# RBC-3.95* Hgb-12.1 Hct-34.2*# 
MCV-87 MCH-30.6 MCHC-35.3* RDW-13.0 Plt ___
___ 08:33PM BLOOD Neuts-48.5* ___ Monos-6.8 
Eos-5.2* Baso-0.5
___ 08:33PM BLOOD Glucose-88 UreaN-10 Creat-0.6 Na-141 
K-3.6 Cl-110* HCO3-23 AnGap-12
___ 08:33PM BLOOD ALT-15 AST-22 AlkPhos-58 TotBili-0.4
___ 08:33PM BLOOD Albumin-4.2
___ 10:05AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.8
___ 06:50AM BLOOD WBC-4.6 RBC-3.84* Hgb-11.9* Hct-33.3* 
MCV-87 MCH-30.9 MCHC-35.7* RDW-12.7 Plt ___
___ 06:50AM BLOOD Glucose-84 UreaN-9 Creat-0.7 Na-139 K-3.7 
Cl-107 HCO3-23 AnGap-13

----------------
Microbiology:
----------------
___ 08:33PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:33PM URINE Blood-SM Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-1 pH-5.0 Leuks-NEG
___ 08:33PM URINE ___ Bacteri-MOD Yeast-NONE 
___
URINE CULTURE (Final ___:    <10,000 organisms/ml. (final 
report)

----------------
Imaging
----------------
Abdominal Ultrasound ___:
There is normal echogenicity of the liver. There is no extra- or 

intra-hepatic biliary duct dilatation. There are two hyperechoic 
lesions in the liver with no convincing vascularity, one 
measuring 1.8 x 2.1 x 2 cm and second one measuring 8 x 8 x ___ile duct measures 3 mm. The portal vein is 
patent. The left kidney measures 10.2 cm. There is a 5-mm 
nonobstructing stone in the upper pole of the left kidney. The 
right kidney measures 10 cm. There is no evidence of 
hydronephrosis. There is no free fluid. The spleen is normal 
measuring 7.3 cm. Evaluation of pancreas is slightly suboptimal 
due to overlapping bowel gas; however, no gross abnormality of 
the pancreatic head. Urinary bladder appears within normal 
limits.   
IMPRESSION: 
1. Two hyperechoic liver lesions in the right liver lobe, with 
no convincing vascularity, with imaging characteristics most 
suggestive of liver hemangioma. 
2. 5-mm nonobstructive stone in the upper pole of the left 
kidney. No 
hydronephrosis. 
3. Patent main portal vein. 

 
Brief Hospital Course:
This is a ___ year old female with a history of kidney stones who 
presents with a one week history of right sided crampy abdominal 
pain, found to have a left-sided kidney stone and liver cyst on 
abdominal ultrasound.  

.  
# Abdominal Pain: No clear etiology, but felt to be most likely 
related to passage of a kidney stone on the right.  The patient 
described a crampy abdominal pain located on the right, and had 
right and left CVA tenderness on examination.  She was started 
on tamsulosin given the presence of a 5mm stone on that side.  
However, she experienced dizziness, so this medication was 
stopped.  Additionally, the patient mentioned experiencing a 
painful big toe during a prior episode of passing a kidney 
stone. While she did not pass a stone that could be collected 
for laboratory evaluation, the possibility of hyperuricemia and 
concurrent gout was considered, and the patient was given 
information regarding a low uric acid diet.  Her pain resolved 
spontaneously during the admission, and she was able to tolerate 
a regular diet at discharge.  She was instructed to contact her 
PCP regarding further workup for her kidney stones.
.  
# Liver lesions: Outpatient CT records were obtained, which 
noted growth of a liver lesion ___ 7 mm to 17 mm since ___. 
The report did not specify whether this lesion was consistent 
with a cyst or hemangioma, and suggested MRI for further 
characterization.  An ultrasound during admission identified 
cysts consistent with hemangiomas.  This lesion was felt to be 
unrelated to her current episode of abdominal pain.  The patient 
preferred to undergo MRI as an outpatient, and was instructed to 
contact her PCP regarding scheduling this test on discharge.
.
# Migraine HA: The patient reported a history of migraine 
headaches, for which she had taken fioricet in the past, 
although this had been discontinued by her PCP for unknown 
reasons.  While admitted, she did experience a migraine that was 
partially relieved with acetaminophen and tramadol.  She 
requested a trial of motrin for headaches, and was discharged 
with a prescription for several doses of Motrin 800 mg.  She was 
instructed to discuss this medication further with her PCP if 
effective and she would like to continue.
.
# Asthma: The patient denied any asthmatic symptoms, and was 
continued on her home dose of flovent and albuterol prn.  
  

 
Medications on Admission:
Flovent 2puffs daily  
Albuterol PRN  

 
Discharge Medications:
1. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation DAILY (Daily).  
2. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every six (6) hours as needed for shortness of 
breath or wheezing.  
3. Motrin 800 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for headache.
Disp:*10 Tablet(s)* Refills:*0*
4. acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, headache.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Nephrolithiasis
Liver cysts
Migraine headaches

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for severe abdominal pain.  
You underwent an abdominal ultrasound that showed a cyst in your 
liver and a kidney stone on the left.  We think that you likely 
passed a kidney stone on the right, which caused your pain.  You 
should call your PCP on ___ to discuss scheduling an MRI to 
better evaluate your liver cyst.

We made the following changes to your medications:
-Start Motrin to use for headache for the next several days.  If 
you would like to continue with this medication, please discuss 
it with your PCP.
 
Followup Instructions:
___